US08937092B2
To a stirred solution of 2-(4-cyanophenyl)propanoic acid (148 mg, 0.85 mmol) in acetonitrile were added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide (243 mg, 1.27 mmol), 1-hydroxybenzotriazole (171 mg, 1.27 mmol), (2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methanamine (247 mg, 0.93 mmol) and triethylamine (0.29 mL, 2.11 mmol). The reaction mixture was stirred for overnight at room temperature. The mixture was diluted with ethylacetate and washed with water and brine. The organic layer was dried over magnesium sulfate and filtered. The filtrate removed in vacuo. The crude was purified by column chromatography. 2-(4-Cyanophenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide (311 mg) was obtained as 87% yield.

reactant | 2-(4-cyanophenyl)propanoic acid | 0.85 mmol, 148 mg | C(#N)C1=CC=C(C=C1)C(C(=O)O)C | C10H9NO2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide | 1.27 mmol, 243 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 1.27 mmol, 171 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methanamine | 0.93 mmol, 247 mg | C1(=CC(=CC=C1)C1=NC(=CC=C1CN)C(F)(F)F)C | C14H13F3N2
reactant | triethylamine | 2.11 mmol, 0.29 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 2-(4-Cyanophenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide | 311 mg, 87% yield | C(#N)C1=CC=C(C=C1)C(C(=O)NCC=1C(=NC(=CC1)C(F)(F)F)C=1C=C(C=CC1)C)C | C24H20F3N3O
